US04340733
A stirred mixture of 3-chloro-6-[2-(3-t-butylamino-2-hydroxypropoxy)phenyl]pyridazine hydrochloride (0.3 g.) and hydrazine hydrate (3 ml.) was heated under reflux for 50 minutes. After cooling, dichloromethane was added and this mixture was extracted with water, the dichloromethane was removed by evaporation and the residue was treated with a mixture of n-propanol (1.2 ml.) and concentrated hydrochloric acid (0.13 ml.) to give 3-[2-(3-t-butylamino-2-hydroxypropoxy)phenyl]-6-hydrazinopyridazine dihydrochloride, m.p. 163°-168°.

reactant | 3-chloro-6-[2-(3-t-butylamino-2-hydroxypropoxy)phenyl]pyridazine hydrochloride | 0.3 g | Cl.ClC=1N=NC(=CC1)C1=C(C=CC=C1)OCC(CNC(C)(C)C)O
reactant | hydrazine hydrate | 3 ml | O.NN
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-[2-(3-t-butylamino-2-hydroxypropoxy)phenyl]-6-hydrazinopyridazine dihydrochloride | Cl.Cl.C(C)(C)(C)NCC(COC1=C(C=CC=C1)C=1N=NC(=CC1)NN)O | InChI=1S/C17H25N5O2.2ClH/c1-17(2,3)19-10-12(23)11-24-15-7-5-4-6-13(15)14-8-9-16(20-18)22-21-14;;/h4-9,12,19,23H,10-11,18H2,1-3H3,(H,20,22);2*1H
